US05502073
Tri n-butyl tin hydride (19.6 ml.) and α-azo-iso-butyronitrile (0.5 g.) were added succesively to a stirred solution of 2-bromo-2-methylbutane (10 g.) and acrylonitrile (43.5 ml.) in dry benzene (200 ml.). The mixture was heated at reflux for 6 hours, cooled and filtered. The residue was washed with diethyl ether (50 ml.) and the combined filtrates evaporated under reduced pressure. 4,4-Dimethylhexanenitrile was obtained as a colourless liquid (2.1 g.), b.p. 85°-94°/20 mm.

reactant | Tri n-butyl tin hydride | 19.6 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 2-bromo-2-methylbutane | 10 g | BrC(C)(CC)C | C5H11Br
reactant | acrylonitrile | 43.5 ml | C(C=C)#N | C3H3N
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 4,4-Dimethylhexanenitrile | CC(CCC#N)(CC)C | C8H15N
